US05962448
Synthesis of ethyl 3-(4-methyl-3-pyrrolecarboxamido)propionate (Compound No. 4)
Using 7.63 g (60 mmol) of 4-methyl-3-pyrrolecarboxylic acid, 15.4 g (100 mmol) of β-alanine ethyl ester hydrochloride, 14 ml (100 mmol) of triethylamine, 17.3 g (90 mmol) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride and 100 ml of methylene chloride, 5.80 g of the title compound were obtained in a similar manner as in Example 2 (yield: 26%).

reactant | 4-methyl-3-pyrrolecarboxylic acid | 60 mmol, 7.63 g | CC=1C(=CNC1)C(=O)O | C6H7NO2
reactant | β-alanine ethyl ester hydrochloride | 100 mmol, 15.4 g | Cl.C(C)OC(CCN)=O
reactant | triethylamine | 100 mmol, 14 ml | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 90 mmol, 17.3 g | Cl.C(C)N=C=NCCCN(C)C
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | ethyl 3-(4-methyl-3-pyrrolecarboxamido)propionate | 5.80 g | CC=1C(=CNC1)C(=O)NCCC(=O)OCC | C11H16N2O3
